US06403792B1
65b) 2-Phenoxymethylpiperdine
To a solution of 2-phenoxymethylpyridine (1.0 g, 5.4 mmol) in 23 mL of acetic acid was added 0.13 g of 5% Pt/C. The mixture was hydrogenated on a Parr shaker at 50 psi for 5 h. Toluene and EtOAc were added to the mixture and it was filtered and concentrated under reduced pressure to give an oil. The oil was dissolved in CH2Cl2 and washed with 10% NaOH. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give a 50/50 mixture of the title compound and starting material as a yellow oil (1.0 g, 98%). ES (+) MS m/e=192 (M+H).

reactant | 2-phenoxymethylpyridine | 5.4 mmol, 1.0 g | O(C1=CC=CC=C1)CC1=NC=CC=C1 | C12H11NO
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | 23 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pt/C | 0.13 g | [Pt] | Pt
product | 2-Phenoxymethylpiperdine | O(C1=CC=CC=C1)CC1NCCCC1 | C12H17NO
